US04398001
A. Preparation of 2-ethoxyethyl methallyl ether
Into a 22 liter flask equipped with a reflux condenser, mechanical stirrer, addition funnel and nitrogen gas inlet, was placed 12.5 liters of dry tetrahydrofuran and 1958 grams of a 60% oil dispersion of sodium hydride. The mixture was stirred and heated to a gentle reflux, then 2.99 Kg of 3-chloro-2-methyl propene was added as one portion. Next, 2.79 Kg of 2-ethoxyethanol was added dropwise during 3.5 hours with no external heating of the resulting exothermic reaction. Refluxing was continued for two additional hours, then the solution was cooled to room temperature. Excess sodium hydride was decomposed by carefully adding ethanol then enough water to dissolve the resulting salts. The organic layer was separated and distilled through a vigreaux column at 156°-158° C. The yield of product was 3490 grams and was 99.4% pure by G.L.P.C. analysis.

reactant | tetrahydrofuran | 12.5 liters | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-2-methyl propene | 2.99 Kg | ClCC(=C)C | C4H7Cl
reactant | 2-ethoxyethanol | 2.79 Kg | C(C)OCCO | C4H10O2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxyethyl methallyl ether | C(C(C)=C)OCCOCC | C8H16O2
